US08487009B2
a). 1,3-Bis(3-fluorophenyl)-2-(3,5-dimethoxy-4-i-propylphenyl)propan-2-ol
This material was prepared in 70% yield from the methyl 3,5-dimethoxy-4-i-propylbenzoate and 3-fluorobenzyl bromide using the same method as described in example 1(b). 1HNMR (CDCl3, ppm): δ 1.29 (d, J=7.1 Hz, 6H), 1.85 (s, 1H), 3.07 (d, J=13.3 Hz, 2H), 3.29 (d, J=13.3 Hz, 2H), 3.56 (qint, J=7.1 Hz, 1H), 3.72 (s, 6H), 6.42 (s, 2H), 6.7-7.2 (m, 8H).

reactant | methyl 3,5-dimethoxy-4-i-propylbenzoate | COC=1C=C(C(=O)OC)C=C(C1C(C)C)OC | C13H18O4
reactant | 3-fluorobenzyl bromide | FC=1C=C(CBr)C=CC1 | C7H6BrF
product | 1,3-Bis(3-fluorophenyl)-2-(3,5-dimethoxy-4-i-propylphenyl)propan-2-ol | 70% yield | FC=1C=C(C=CC1)CC(CC1=CC(=CC=C1)F)(O)C1=CC(=C(C(=C1)OC)C(C)C)OC | C26H28F2O3
